US06890947B2
Rac-2-Methoxy-3-[1-(5-methyl-2-phenyl-oxazol-4-ylmethyl)-1H-indol-5-yl]-propionic Acid
A suspension of 80 mg of (Z)-2-methoxy-3-[1-(5-methyl-2-phenyl-oxazol-4-ylmethyl)-1H-indol-5-yl]-acrylic acid in 5 ml of methanol and 2 ml of dichloromethane and 30 mg of Pd/C 10%) was hydrogenated at 22° C. and 1 bar until hydrogen uptake ceased (3 h). The mixture was filtered, the filtrate evaporated and the residue was purified by preparative HPLC (RP-18, CH3CN/H2O, gradient) to give 49 mg of the title compound as a yellow oil. MS: (M−H)− 389.1.

reactant | (Z)-2-methoxy-3-[1-(5-methyl-2-phenyl-oxazol-4-ylmethyl)-1H-indol-5-yl]-acrylic acid | 80 mg | CO\C(\C(=O)O)=C/C=1C=C2C=CN(C2=CC1)CC=1N=C(OC1C)C1=CC=CC=C1 | C23H20N2O4
reactant | hydrogen | [H][H] | H2
solvent | methanol | 5 ml | CO | CH4O
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
catalyst | Pd/C | 30 mg | [Pd] | Pd
product | Rac-2-Methoxy-3-[1-(5-methyl-2-phenyl-oxazol-4-ylmethyl)-1H-indol-5-yl]-propionic Acid | 49 mg | COC(C(=O)O)CC=1C=C2C=CN(C2=CC1)CC=1N=C(OC1C)C1=CC=CC=C1 | C23H22N2O4
